US07713994B2
4-({4-[1-(2-Hydroxy-ethyl)-pyrrolidin-2-yl]-phenylamino}-methylene)-6-iodo-4H-isoquinoline-1,3-dione
6-Iodo-4-[(4-pyrrolidin-2-yl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione (250 mg, 0.54 mmol) and Na2CO3 (2.0 g, 18.9 mmol) in THF (10 mL) is heated to reflux and bromoethanol (0.15 mL) is added every 45 min for 4 hours. The resulting mixture is then allowed to reflux overnight. After TLC suggested no starting material left, the THF is removed and after an aqueous work up, the desired product is isolated through chromatography (75 mg, 28%). MS (ESI): 504.0 (M+1)+1.

reactant | 6-Iodo-4-[(4-pyrrolidin-2-yl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 0.54 mmol, 250 mg | IC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)C1NCCC1 | C20H18IN3O2
reactant | Na2CO3 | 18.9 mmol, 2.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | bromoethanol | 0.15 mL | BrC(C)O | C2H5BrO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-({4-[1-(2-Hydroxy-ethyl)-pyrrolidin-2-yl]-phenylamino}-methylene)-6-iodo-4H-isoquinoline-1,3-dione | OCCN1C(CCC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)I)=O)=O | C22H22IN3O3
